* C:\Users\Dinesh\OneDrive\Documents\LTspice\CMOS 6T SRAM Cell.asc
* Generated by LTspice 24.1.9 for Windows.
M1 Q Q_bar 0 N001 CMOSN l=180n w=3u
M2 vdd Q_bar Q vdd CMOSP l=180n w=1.5u
V§PC PC 0 PULSE(1.8 0 3n 100p 100p 1n 10n)
Vdd vdd 0 1.8
M3 Q_bar Q 0 N002 CMOSN l=180n w=3u
M4 vdd Q Q_bar vdd CMOSP l=180n w=1.5u
M5 Q word bit 0 CMOSN l=180n w=1.5u
M6 bit_bar word Q_bar 0 CMOSN l=180n w=1.5u
C1 bit 0 10f
C2 bit_bar 0 10f
V§D D 0 PULSE(0 1.8 0 100p 100p 10n 20n)
V§D_bar D_bar 0 PULSE(1.8 0 0 2p 2p 10n 20n)
V§word word 0 PULSE(0 1.8 1n 100p 100p 2n 5n)
M7 bit write D 0 CMOSN l=180n w=6u
M8 bit_bar write D_bar 0 CMOSN l=180n w=6u
V§Write write 0 PULSE(0 1.8 1n 100p 100p 2n 10n)
M9 vdd PC bit vdd CMOSP l=180n w=2u
M10 vdd PC bit_bar vdd CMOSP l=180n w=2u
M11 bit bit_bar N004 0 CMOSN l=180n w=3u
M12 N003 bit_bar bit vdd CMOSP l=180n w=6u
M13 bit_bar bit N004 0 CMOSN l=180n w=3u
M14 N003 bit bit_bar vdd CMOSP l=180n w=6u
M15 vdd SE_bar N003 vdd CMOSP l=180n w=6u
M16 N004 SE 0 NC_01 CMOSN l=180n w=3u
V§SE SE 0 PULSE(0 1.8 6n 100p 100p 2n 10n)
V§SE_bar SE_bar 0 PULSE(1.8 0 6n 100p 100p 2n 10n)
V§Read Read 0 PULSE(0 1.8 6n 100p 100p 1n 10n)
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Dinesh\AppData\Local\LTspice\lib\cmp\standard.mos
.INCLUDE tsmc018.lib
.tran 80n
* CMOS 6T SRAM Cell
* Sense Amplifier
* Precharge Circuit
* Bistable Latch
* Precharge Circuit
* using 180nm TSMC MOSFET models
.backanno
.end
